US08420694B2
tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-hydroxypropyl)cyclopropanecarboxylate
A solution of tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}propanoyl)cyclopropanecarboxylate (1.66 g) in methanol (25 mL) was cooled to 0° C., 90% sodium borohydride (305 mg) was added, and the mixture was stirred at 0° C. for 30 min. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=30/1→1/1) to give the title compound as a colorless oil (yield: 1.58 g, 94%).

reactant | tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}propanoyl)cyclopropanecarboxylate | 1.66 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)C1(CC1)C(=O)OC(C)(C)C)C | C19H25NO5
reactant | sodium borohydride | 305 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 25 mL | CO | CH4O
product | tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-hydroxypropyl)cyclopropanecarboxylate | yield: 1.58 g, 94% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(O)C1(CC1)C(=O)OC(C)(C)C)C | C19H27NO5
